US08530468B2
5-amino-3-(1-(dimethylamino)propan-2-yloxy)pyrazine-2-carbonitrile
1-(Dimethylamino)propan-2-ol (187 mg, 1.81 mmol) was added to a stirred suspension of sodium hydride (123 mg, 60% in mineral oil, 1.81 mmol) in 1,4-dioxane. After 30 minutes, 5-amino-3-chloropyrazine-2-carbonitrile (140 mg, 0.906 mmol) was added. The vial was capped and the reaction mixture was heated to 100° C. overnight. The reaction mixture was concentrated, diluted with methanol and adsorbed onto an SPE (TsOH) cartridge (pre-conditioned with methanol). The cartridge was rinsed with methanol and the product was eluted with 2 M NH3 in methanol. The basic fractions were concentrated to give the title compound as an orange oil which was used without further purification (79.2 mg, 0.358 mmol, 40%). LC-MS (1) Rt=1.33 m/z (ESI+) 222 (MH+).

reactant | 1-(Dimethylamino)propan-2-ol | 1.81 mmol, 187 mg | CN(CC(C)O)C | C5H13NO
reactant | sodium hydride | 1.81 mmol, 123 mg | [H-].[Na+]
reactant | 5-amino-3-chloropyrazine-2-carbonitrile | 0.906 mmol, 140 mg | NC=1N=C(C(=NC1)C#N)Cl | C5H3ClN4
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 5-amino-3-(1-(dimethylamino)propan-2-yloxy)pyrazine-2-carbonitrile | NC=1N=C(C(=NC1)C#N)OC(CN(C)C)C | C10H15N5O
